US07176242B2
Methyl 3-(2-{3-[({(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}amino)carbonyl]phenyl}-1,3-oxazol-5-yl)propanoate
3-[5-(3-Methoxy-3-oxopropyl)-1,3-oxazol-2-yl]benzoic acid (285 mg, 1.0 mmol) is dissolved in methylene chloride (5 mL) and DMF (5 mL), and diisopropylethylamine (695 μL, 4.0 mmol), HATU (472 g, 1.2 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method of EXAMPLE SP-272 (448 mg, 1.1 mmol) are added. The reaction stirred at room temperature 1 h. The reaction is partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer is washed with 1 N hydrochloric acid, saturated sodium bicarbonate, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 8% methanol/chloroform) provides the title compound. ESI MS m/z 591.9 [M+H]+.

reactant | 3-[5-(3-Methoxy-3-oxopropyl)-1,3-oxazol-2-yl]benzoic acid | 1.0 mmol, 285 mg | COC(CCC1=CN=C(O1)C=1C=C(C(=O)O)C=CC1)=O | C14H13NO5
reactant | diisopropylethylamine | 4.0 mmol, 695 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 1.2 mmol, 472 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl 3-(2-{3-[({(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}amino)carbonyl]phenyl}-1,3-oxazol-5-yl)propanoate | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C=2C=C(C=CC2)C=2OC(=CN2)CCC(=O)OC)C=C(C1)F | C33H35F2N3O5
